US04427685
A solution of 2-[[[5-(dimethylamino)methyl-2-thienyl]methyl]thio]ethanamine (1.00 g) and 1-cyclooctylamino-1-methylthio-2-nitroethene (1.17 g) in acetonitrile (4 ml) was heated at reflux temperature for 8 days. The solvent was then evaporated in vacuo and the residue partitioned between water (25 ml) and ethyl acetate (25 ml). The aqueous phase was then extracted with ethyl acetate (2×25 ml) and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography on alumina using pentane/chloroform mixtures as eluant to give N-[2-[[5-(dimethylamino)methyl-2-thienyl]methyl]thioethyl]-N-cyclooctyl-2-nitro-1,1-ethenediamine (0.62 g) as an orange oil.

reactant | 2-[[[5-(dimethylamino)methyl-2-thienyl]methyl]thio]ethanamine | 1.00 g | CN(C)CC1=CC=C(S1)CSCCN | C10H18N2S2
reactant | 1-cyclooctylamino-1-methylthio-2-nitroethene | 1.17 g | C1(CCCCCCC1)NC(=C[N+](=O)[O-])SC | C11H20N2O2S
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-[2-[[5-(dimethylamino)methyl-2-thienyl]methyl]thioethyl]-N-cyclooctyl-2-nitro-1,1-ethenediamine | 0.62 g | CN(C)CC1=CC=C(S1)CSCCN(C(=C[N+](=O)[O-])N)C1CCCCCCC1 | C20H34N4O2S2
